US20010021718A1
(3R)-3-[3-({[1-(tert-Butoxycarbonyl)-3-azetidinyl]amino}carbonyl)-1,2,4-oxadiazol-5-yl]-6-cyclohexylhexanoic acid
A solution of (3R)-6-cyclohexyl-3-[3-(ethoxycarbonyl)-1,2,4-oxadiazol-5-yl]hexanoic acid (Preparation 4) (480 mg, 1.42 mmol) and triethylamine (1 ml, 7.18 mmol) in ethanol (8 ml) was treated with tert-butyl 3-amino-1-azetidinecarboxylate (Preparation 78) (300 mg, 1.74 mmol) and the resulting mixture was heated at 80° C. under a nitrogen atmosphere for 18 hours. The solvent was removed under reduced pressure. The residue was purified by column chromatography on silica gel eluting with a gradient system of dichloromethane:methanol (99:1) gradually changing to dichloromethane:methanol (90:10) to afford the title compound contaminated with starting amine. The solid was dissolved in ethyl acetate and washed with hydrochloric acid (0.5M) (2×), water and brine, dried over magnesium sulphate, filtered and the solvent was removed under reduced pressure to afford the title compound as a sticky foam.

reactant | (3R)-6-cyclohexyl-3-[3-(ethoxycarbonyl)-1,2,4-oxadiazol-5-yl]hexanoic acid | 1.42 mmol, 480 mg | C1(CCCCC1)CCC[C@H](CC(=O)O)C1=NC(=NO1)C(=O)OCC | C17H26N2O5
reactant | triethylamine | 7.18 mmol, 1 ml | C(C)N(CC)CC | C6H15N
reactant | tert-butyl 3-amino-1-azetidinecarboxylate | 1.74 mmol, 300 mg | NC1CN(C1)C(=O)OC(C)(C)C | C8H16N2O2
solvent | ethanol | 8 ml | C(C)O | C2H6O
product | (3R)-3-[3-({[1-(tert-Butoxycarbonyl)-3-azetidinyl]amino}carbonyl)-1,2,4-oxadiazol-5-yl]-6-cyclohexylhexanoic acid | C(C)(C)(C)OC(=O)N1CC(C1)NC(=O)C1=NOC(=N1)[C@@H](CC(=O)O)CCCC1CCCCC1 | C23H36N4O6
